US06277987B1
A suspension of the 4′-chlorobiphenyl-4-sulfonic acid in 100 mL of thionyl chloride is heated at reflux for 6 h, and the resulting homogeneous solution is then cooled to RT. The mixture is concentrated under reduced pressure and the residue is triturated with diethyl ether and dried to afford 9.8 g (95%) of 4′-chlorobiphenyl-4-sulfonyl chloride as an off-white solid.

reactant | 4′-chlorobiphenyl-4-sulfonic acid | ClC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)O | C12H9ClO3S
reactant | thionyl chloride | 100 mL | S(=O)(Cl)Cl | Cl2OS
product | 4′-chlorobiphenyl-4-sulfonyl chloride | 9.8 g, 95% | ClC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H8Cl2O2S
